US07169789B2
N-[2-Chloro-4-({6-methoxy-7-[2-(1H-1,2,3-triazol-1-yl)ethoxy]-4-quinolyl}oxy)phenyl]-N′-(2,4-difluorophenyl)urea
N-{2-Chloro-4-[(7-hydroxy-6-methoxy-4-quinolyl)-oxy]phenyl}-N′-(2,4-difluorophenyl)urea (55 mg), potassium carbonate (31 mg), and 2-(1H-1,2,3-triazol-1-yl)ethyl 4-methyl-1-benzenesulfonate (36 mg) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at 80° C. for one hr. The solvent was removed by distillation under the reduced pressure. A saturated aqueous sodium hydrogencarbonate solution was added to the residue, and the mixture was extracted with chloroform. The chloroform layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was washed with ether to give 46 mg (yield 72%) of the title compound.

reactant | N-{2-Chloro-4-[(7-hydroxy-6-methoxy-4-quinolyl)-oxy]phenyl}-N′-(2,4-difluorophenyl)urea | 55 mg | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)O)NC(=O)NC1=C(C=C(C=C1)F)F | C23H16ClF2N3O4
reactant | potassium carbonate | 31 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(1H-1,2,3-triazol-1-yl)ethyl 4-methyl-1-benzenesulfonate | 36 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCN1N=NC=C1 | C11H13N3O3S
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-[2-Chloro-4-({6-methoxy-7-[2-(1H-1,2,3-triazol-1-yl)ethoxy]-4-quinolyl}oxy)phenyl]-N′-(2,4-difluorophenyl)urea | 46 mg, yield 72% | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCCN1N=NC=C1)NC(=O)NC1=C(C=C(C=C1)F)F | C27H21ClF2N6O4
